US04464366
32.2 g of 2-(3-BOC-methylaminophenyl)-glyoxylic acid are reacted with 13.8 g of hydroxylamine hydrochloride in the manner described in Example 4. Crystallisation from CH2Cl2 /CH3OH/ether/hexane yields 2-(3-BOC-methylaminophenyl)-2-hydroxyiminoacetic acid. M.p. 135° (decomposition). IR: 3620, 3600-2300 (wide), 1688, 1600, 1590 (shoulder) cm-1 (CH2Cl2).

reactant | 2-(3-BOC-methylaminophenyl)-glyoxylic acid | 32.2 g | C(=O)(OC(C)(C)C)C=1C(=C(C=CC1)C(C(=O)O)=O)NC | C14H17NO5
reactant | hydroxylamine hydrochloride | 13.8 g | Cl.NO
product | 2-(3-BOC-methylaminophenyl)-2-hydroxyiminoacetic acid | C(=O)(OC(C)(C)C)C=1C(=C(C=CC1)C(C(=O)O)=NO)NC | C14H18N2O5
